Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Wellbutrin / Levaquin / azithromycin / Bactrim
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Small Bowel Obstruction
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with history of two SBOs in the past (treated 
non-operatively) presents with 36 hour history of obstructive 
symptoms.  She first noted abdominal pain in the morning of ___, 
follow by nausea with emesis that night.  She reports a lack of 
flatus for 24 hours, and has had small volume small caliber 
bowel movement but her abdominal distention has only worsened.  
She went to an urgent care where CT scan revealed dilated loops 
of small bowel concerning for SBO.  She had been taking Bactrim 
for a UTI and reportedly retained urine at the urgent care, so a 
foley catheter was placed prior to transfer.  In the ED she is 
nauseated, burping, visibly distended but soft, and states she 
has ___ abdominal pain. 
 
Past Medical History:
SBO x2 (non-op management), frequent UTIs, htn, narcolepsy, 
migraine, depression
 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Vitals: 98.5 74 144/78 16 97% RA 
GEN: A&O, NAD but appears uncomfortable
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, 
PULM: non-labored respirations
ABD: Soft, +distended, +TTP diffusely with guarding, no rebound 
pain  +Tympany, no masses or hernia appreciated
Ext: No ___ edema, ___ warm and well perfused

ON d/c
GEN: NAD alert and oriented, up in bed eating food
CV: RRR
PULM: no respiratory distress 
ABD: soft, nontender, non distended, no pain with palpation, +BM

 
Pertinent Results:
___ 09:10AM BLOOD WBC-10.7* RBC-4.00 Hgb-12.9 Hct-39.1 
MCV-98 MCH-32.3* MCHC-33.0 RDW-12.5 RDWSD-44.5 Plt ___
___ 09:10AM BLOOD Glucose-105* UreaN-8 Creat-0.6 Na-142 
K-3.9 Cl-101 HCO3-27 AnGap-14
 
Brief Hospital Course:
Patient is a ___ with history of multiple abdominal surgeries 
and SBOs managed non operatively who presented with obstructive 
sxs. Patient was made NPO, NGT was placed and IVFs were given. 
The patient's pain was controlled and slowly subsided. After 
flatus and improved symptoms the NGT and Foley were dc'ed and 
diet was advanced. The patient was able to eat regular diet w/o 
N/V and had + bowel function and was ready to leave the 
hospital. 
 
Medications on Admission:
diazepam 10 mg tablet PO
estradiol 0.1 mg/24 hr semiweekly transdermal patch
hydrochlorothiazide 25 mg tablet
lamotrigine 100 mg tablet
losartan 50 mg tablet
naratriptan 2.5 mg tablet
omeprazole 20 mg capsule,delayed release
armodafinil 250 mg oral BID
 
Discharge Medications:
diazepam 10 mg tablet PO
estradiol 0.1 mg/24 hr semiweekly transdermal patch
hydrochlorothiazide 25 mg tablet
lamotrigine 100 mg tablet
losartan 50 mg tablet
naratriptan 2.5 mg tablet
omeprazole 20 mg capsule,delayed release
armodafinil 250 mg oral BID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ for 
abdominal pain due to small bowel obstruction. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:
- Please take diet slowly and as you can tolerate it. Eat 
multiple small meals instead of 3 larger meals. Avoid foods that 
triggered this abdominal pain such as popcorn, vegetables, 
fruits, beans and whole grains (cereal, rice and pasta). Check 
that the foods you are eating are low in fiber (3g or less) 
until your outpatient appointment and further instruction 
- Please follow up with the acute care surgery clinic that was 
scheduled for you below

 
Followup Instructions:
___